US07544812B2
A solution of 2-(4-{3-[1-(3,4-dimethyl-benzyl)-2,5-dioxo-imidazolidin-4-yl]-propyl}-phenoxy)-2-methyl-propionic acid tert-butyl ester (0.113 g, 0.228 mmol) in THF (6 mL) was treated dropwise with 1 M solution of borane-THF complex in THF (4.4 mL, 4.4 mmol) and then stirred at room temperature under N2 for 32 h. The reaction was quenched with methanol (6 mL) and stirred at room temperature for 2 hr. The solvent was removed in vacuo to give crude product that was purified by flash chromatography using 97:3 CH2Cl2:MeOH to afford 0.051 g (47%) 2-(4-{3-[1-(3,4-dimethyl-benzyl)-2-oxo-imidazolidin-4-yl]-propyl}-phenoxy)-2-methyl-propionic acid tert-butyl ester. MS (ES+) Calc'd for C29H41N2O4 (M+1) 481. Found m/z 481 (100%). 1H NMR.

reactant | 2-(4-{3-[1-(3,4-dimethyl-benzyl)-2,5-dioxo-imidazolidin-4-yl]-propyl}-phenoxy)-2-methyl-propionic acid tert-butyl ester | 0.228 mmol, 0.113 g | C(C)(C)(C)OC(C(C)(C)OC1=CC=C(C=C1)CCCC1NC(N(C1=O)CC1=CC(=C(C=C1)C)C)=O)=O | C29H38N2O5
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | THF | 4.4 mmol, 4.4 mL | C1CCOC1 | C4H8O
product | 2-(4-{3-[1-(3,4-dimethyl-benzyl)-2-oxo-imidazolidin-4-yl]-propyl}-phenoxy)-2-methyl-propionic acid tert-butyl ester | 0.051 g, 47% | C(C)(C)(C)OC(C(C)(C)OC1=CC=C(C=C1)CCCC1NC(N(C1)CC1=CC(=C(C=C1)C)C)=O)=O | C29H40N2O4
